US07220744B2
5-Methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid
Prepared in analogy to Example A14(c) from 2-fluoro-5-methanesulfonyl-benzoic acid (Example A14(b)) and 2,2,3,3,3-pentafluoro-1-propanol. MS (m/e): 346.9 ([M−H]−, 100%)

reactant | 2-fluoro-5-methanesulfonyl-benzoic acid | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7FO4S
reactant | 2,2,3,3,3-pentafluoro-1-propanol | FC(CO)(C(F)(F)F)F | C3H3F5O
product | 5-Methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC(C(F)(F)F)(F)F | C11H9F5O5S
